US06211234B1
A solution of methyl 4-benzyloxy-2-(1-o-tolylethoxy)benzoate (2.8 g) in 15% KOH in MeOH (50 mL) is refluxed for 3 hours. The solution is evaporated, the residue treated with water, brought to pH 1 with concentrated HCl, extracted with dichloromethane. The extract is dried and evaporated to give 4-benzyloxy-2-(1-o-tolylethoxy)benzoic acid as a colourless solid, m.p. 110-113° C.

reactant | methyl 4-benzyloxy-2-(1-o-tolylethoxy)benzoate | 2.8 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)OC(C)C1=C(C=CC=C1)C | C24H24O4
solvent | KOH | [OH-].[K+]
solvent | MeOH | 50 mL | CO | CH4O
product | 4-benzyloxy-2-(1-o-tolylethoxy)benzoic acid | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)OC(C)C1=C(C=CC=C1)C | C23H22O4
